US06780563B2
A flask was charged with 9.82 g of magnesium and 150 ml of THF, to which a solution of 43.5 g of 1,4-dibromobutane diluted with 50 ml of THF was added dropwise at 50° C. The solution was stirred for one hour at 65° C., after which 23.5 g of ethyl 3-trimethylsilylpropionate was added dropwise below 50° C. The solution was stirred for one hour at room temperature, after which an aqueous solution of ammonium chloride was added for hydrolysis. This was followed by ordinary post-treatments. Upon vacuum distillation, there was obtained 23.6 g (yield 94%) of 1-(2-trimethylsilylethyl)cyclopentanol.

reactant | magnesium | 9.82 g | [Mg] | Mg
reactant | 1,4-dibromobutane | 43.5 g | BrCCCCBr | C4H8Br2
reactant | ethyl 3-trimethylsilylpropionate | 23.5 g | C[Si](CCC(=O)OCC)(C)C | C8H18O2Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 1-(2-trimethylsilylethyl)cyclopentanol | 23.6 g, yield 94% | C[Si](CCC1(CCCC1)O)(C)C | C10H22OSi
